US07408065B2
1-Methyl-N-5-quinolinyl-cyclohexaneacetamide
Prepared according to the method of example 18, using 5-quinolinamine (230 mg) and 1-methyl-cyclohexaneacetic acid (250 mg). Purification (SiO2, methanol:dichloromethane 1:9 as eluant) followed by recrystallisation from methanol/ethyl acetate gave the title compound as a colourless solid (80 mg).

reactant | 5-quinolinamine | 230 mg | N1=CC=CC=2C(=CC=CC12)N | C9H8N2
reactant | 1-methyl-cyclohexaneacetic acid | 250 mg | CC1(CCCCC1)CC(=O)O | C9H16O2
product | 1-Methyl-N-5-quinolinyl-cyclohexaneacetamide | 80 mg | CC1(CCCCC1)CC(=O)NC1=C2C=CC=NC2=CC=C1 | C18H22N2O
